US06413938B1
A. 3,4-Dichloro-2-fluoro-6-nitroaniline
4,5-Dichloro-2-nitroaniline (9.8 g, 47.4 mmol), 1-fluoro-4-hydroxy-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (18.5 g, 57.4 mmol, Allied Signal, Buffalo), and acetonitrile (300 mL) were combined and the mixture was heated to reflux for several hours. After thin-layer chromatography showed that no starting aniline remained, the mixture was allowed to cool to rt and was poured into ethyl acetate, causing a precipitate to form. The mixture was filtered through a pad of Celite, purified by silica gel and the solvents were removed in vacuo to provide a brown solid (3.9 g, 37%); 1H NMR (DMSO-d6) δ: 8.11 (d, J=2.2 Hz, 1H, Ar—H), 7.67 (br s, 2H, NH2).

reactant | 4,5-Dichloro-2-nitroaniline | 47.4 mmol, 9.8 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | 1-fluoro-4-hydroxy-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 57.4 mmol, 18.5 g | F[B-](F)(F)F.F[B-](F)(F)F.F[N+]12CC[N+](CC1)(CC2)O
reactant | acetonitrile | 300 mL | C(C)#N | C2H3N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-Dichloro-2-fluoro-6-nitroaniline | 3.9 g, 37% | ClC=1C(=C(N)C(=CC1Cl)[N+](=O)[O-])F | C6H3Cl2FN2O2
